US07238808B2
5-[8-Methyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridin-3-ylethynyl]-pyrimidin-2-ylamine
The title compound was prepared from 3-ethynyl-8-methyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine (example C.20) (300 mg, 1 mmol) and commercially available 2-amino-5-iodopyrimidine (221 mg, 1 mmol) according to general procedure II. Obtained as an off-white solid (110 mg, 28%). MS (ISP) 394.1 [(M+H)+]; mp 236° C.

reactant | 3-ethynyl-8-methyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine | 1 mmol, 300 mg | C(#C)C1=CN=C2N1C=C(C=C2C)C2=CC=C(C=C2)C(F)(F)F | C17H11F3N2
reactant | 2-amino-5-iodopyrimidine | 1 mmol, 221 mg | NC1=NC=C(C=N1)I | C4H4IN3
product | 5-[8-Methyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridin-3-ylethynyl]-pyrimidin-2-ylamine | CC=1C=2N(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C(=CN2)C#CC=2C=NC(=NC2)N | C21H14F3N5
